US04049653
4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[4-(Pyrrolidino)-Butyryloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride
3.55 g. (9.37 mmoles) of 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran are combined with 1.82 g. (9.37 mmoles) of γ-pyrrolidinobutyric acid hydrochloride and 2.06 g. (10.0 mmoles) of dicyclohexylcarbodiimide in 150 ml. of methylene chloride and stirred at room temperature for 21/2 hours. The insoluble by-product of dicyclohexylurea is removed by filtration and the filtrate is evaporated to give a residue which crystallized upon standing. The material is triturated with ether and filtered. Recrystallization from benzene-ether gives the product as colorless crystals.

reactant | 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran | 9.37 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)O)C | C25H29FO2
reactant | γ-pyrrolidinobutyric acid hydrochloride | 9.37 mmoles | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 10.0 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[4-(Pyrrolidino)-Butyryloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)OC(CCCN2CCCC2)=O)C | InChI=1S/C33H42FNO3.ClH/c1-23(9-6-10-24-14-16-26(34)17-15-24)25-21-29(37-31(36)13-8-20-35-18-4-5-19-35)32-27-11-7-12-28(27)33(2,3)38-30(32)22-25;/h14-17,21-23H,4-13,18-20H2,1-3H3;1H
